US04880806
1-Cyclopropyl-7-(3-methyl-1-piperazinyl)-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.3 g) is dissolved in 10% aqueous sodium hydroxide (5 ml), and thereto is added acetic anhydride (0.3 ml) at room temperature, and the mixture is stirred at the same temperature for 30 minutes. The reaction mixture is acidified with conc. hydrochloric acid and is extracted with dichloromethane. After removing the solvent by concentration, the resulting residue is purified by silica gel column chromatography (solvent, dichoromethane) and then recrystallized from methanol to give 1-cyclopropyl-7-(4-acetyl-3-methyl-1-piperazinyl)-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.1 g), as white powder, m.p. 219°-221° C.

reactant | 1-Cyclopropyl-7-(3-methyl-1-piperazinyl)-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.3 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C)N1CC(NCC1)C)F)=O)C(=O)O | C19H22FN3O3
reactant | acetic anhydride | 0.3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 5 ml | [OH-].[Na+]
product | 1-cyclopropyl-7-(4-acetyl-3-methyl-1-piperazinyl)-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.1 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C)N1CC(N(CC1)C(C)=O)C)F)=O)C(=O)O | C21H24FN3O4
